US09303033B2
Synthesis of tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-ylcarbamate
To the reaction flask, 5-chloropyrazolo[1,5-a]pyrimidin-7-amine (2.4 g, 14.1 mmol) was added to dichloromethane (35 mL) along with di-tert-butyl dicarbonate (3.7 g, 17 mmol), triethylamine (2.4 mL, 17 mmol) and DMAP (100 mg, 0.8 mmol). The reaction was stirred at room temperature for 6 hours then diluted with DCM, washed with saturated NaHCO3 solution (3×) followed by washing with brine. The organic layer was isolated, dried over anhydrous MgSO4, filtered, and evaporated to dryness. The product, tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-ylcarbamate, was collected as an off-white solid in 98% yield. LCMS (M-t-Butyl=213)

reactant | 5-chloropyrazolo[1,5-a]pyrimidin-7-amine | 14.1 mmol, 2.4 g | ClC1=NC=2N(C(=C1)N)N=CC2 | C6H5ClN4
reactant | di-tert-butyl dicarbonate | 17 mmol, 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 17 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.8 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-ylcarbamate | 98% yield | ClC1=NC=2N(C(=C1)NC(OC(C)(C)C)=O)N=CC2 | C11H13ClN4O2
